US05185370
2-[(3-Trifluoromethylphenyl)methylene]-1,3-dicyclopropyl-1,3-propanedione
The procedure described in Example 19 was repeated by using 2.15 ml 3-trifluoromethylbenzaldehyde and 2.42 g 1,3-dicyclopropyl-1,3-propanedione. Yield 2.71 g, mp 56°-58° C.

reactant | 3-trifluoromethylbenzaldehyde | 2.15 ml | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | 1,3-dicyclopropyl-1,3-propanedione | 2.42 g | C1(CC1)C(CC(=O)C1CC1)=O | C9H12O2
product | 2-[(3-Trifluoromethylphenyl)methylene]-1,3-dicyclopropyl-1,3-propanedione | FC(C=1C=C(C=CC1)C=C(C(=O)C1CC1)C(=O)C1CC1)(F)F | C17H15F3O2
